US05187055
(d) Synthesis of Dodecyl 2-Amino-4-Methylsulfonylphenyl Ether
A mixture of 25.2 g of iron powder, 1 g of ammonium chloride, 25 ml of water and 250 ml of isopropanol was heated and stirred in a nitrogen stream. To the mixture 23.1 g of dodecyl 4-methylsulfonyl-2-nitrophenyl ether was added. After the conclusion of the addition and a 1-hour stirring, the resulting solution was filtrated out by a Nusche coated sellaite therein. The reaction mixture was concentrated, and to the mixture methanol was added to deposit 17.5 g of dodecyl 2-amino-4-methylsulfonylphenyl ether crystal.

reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | water | 25 ml | O | H2O
reactant | dodecyl 4-methylsulfonyl-2-nitrophenyl ether | 23.1 g | CS(=O)(=O)C1=CC(=C(C=C1)OCCCCCCCCCCCC)[N+](=O)[O-] | C19H31NO5S
catalyst | iron | 25.2 g | [Fe] | Fe
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | Dodecyl 2-Amino-4-Methylsulfonylphenyl Ether | NC1=C(C=CC(=C1)S(=O)(=O)C)OCCCCCCCCCCCC | C19H33NO3S
